US07314888B1
In 6 ml of N,N-dimethylformamide are suspended 0.30 g of 3-bromo-2-(ethoxycarbonyl)-1-isobutyl-1H-indole-5-carboxylic acid, 0.10 g of tetrakis(triphenylphosphine)palladium(0), 0.24 ml of formic acid and 1.36 ml of triethylamine. The suspension is stirred at 80° C. for 5 hours. The reaction mixture is added to a mixture of ethyl acetate and water, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=3:1) to obtain 0.12 g of 2-(ethoxycarbonyl)-1-isobutyl-1H-indole-5-carboxylic acid as a yellow solid product.

reactant | 3-bromo-2-(ethoxycarbonyl)-1-isobutyl-1H-indole-5-carboxylic acid | 0.30 g | BrC1=C(N(C2=CC=C(C=C12)C(=O)O)CC(C)C)C(=O)OCC | C16H18BrNO4
reactant | formic acid | 0.24 ml | C(=O)O | CH2O2
reactant | triethylamine | 1.36 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 2-(ethoxycarbonyl)-1-isobutyl-1H-indole-5-carboxylic acid | 0.12 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)C(=O)O)CC(C)C | C16H19NO4
